US04128666
8.1 g of 2,3-Dichloroaniline (0.05 mole) in acetone (100 ml.) and concentrated hydrobromic acid (16 ml.) was stirred at -5° C. and treated with a solution of 4.2 g. of sodium nitrite (0.06 mole) in water (10 ml.). Methyl acrylate (0.5 mole) (43 g.) and cuprous bromide (100 mg.) were then added at 0° C. The reaction temperature was kept below 15° C. until nitrogen evolution ceased and then stirred at 25° C. for thirty minutes. The reaction mixture was poured into water and extracted with benzene which was dried over sodium sulfate and evaporated to give methyl 2-bromo-3-(2,3-dichlorophenyl)propionate. The propionate, 156 g. (0.5 mole) was dissolved in glacial acetic acid (1 l.) and stirred. Zinc dust 65 g. (1 mole) was added in portions and the mixture was stirred for one hour, filtered and evaporated to give methyl 3-(2,3-dichlorophenyl)propionate.

reactant | 2,3-Dichloroaniline | 0.05 mole, 8.1 g | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | sodium nitrite | 0.06 mole | N(=O)[O-].[Na+]
reactant | Methyl acrylate | 0.5 mole, 43 g | C(C=C)(=O)OC | C4H6O2
reactant | hydrobromic acid | 16 ml | Br | BrH
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | methyl 2-bromo-3-(2,3-dichlorophenyl)propionate | BrC(C(=O)OC)CC1=C(C(=CC=C1)Cl)Cl | C10H9BrCl2O2
